US07001897B2
To a suspension of 3-t-butyldiphenylsilyloxy-1-{4-[(3R)-1-(p-nitrobenzyloxycarbonyl)-pyrrolidin-3-ylcarbamoyl]-1,3-thiazol-2-yl}azetidine (590 mg, 0.860 mmol) (obtained as described in Reference Example 53(6)) in anhydrous tetrahydrofuran (18 ml) were added successively acetic acid (59 μl, 1.03 mmol) and a solution of 1.0M tetra-n-butylammonium fluoride in tetrahydrofuran (1.03 ml, 1.03 mmol) in an ice bath, and the mixture was stirred in the ice bath for 1 hour. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and water. The obtained organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate→ethyl acetate:methanol (95:5) as the eluant to afford 3-hydroxy-1-{4-[(3R)-1-(p-nitrobenzyloxycarbonyl)-pyrrolidin-3-ylcarbamoyl]-1,3-thiazol-2-yl}azetidine (378 mg, yield 98%) as a white solid.

reactant | 3-t-butyldiphenylsilyloxy-1-{4-[(3R)-1-(p-nitrobenzyloxycarbonyl)-pyrrolidin-3-ylcarbamoyl]-1,3-thiazol-2-yl}azetidine | 0.860 mmol, 590 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(N[C@H]1CN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C35H39N5O6SSi
reactant | acetic acid | 1.03 mmol, 59 μl | C(C)(=O)O | C2H4O2
reactant | tetra-n-butylammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.03 mmol, 1.03 ml | O1CCCC1 | C4H8O
product | 3-hydroxy-1-{4-[(3R)-1-(p-nitrobenzyloxycarbonyl)-pyrrolidin-3-ylcarbamoyl]-1,3-thiazol-2-yl}azetidine | 378 mg, yield 98% | OC1CN(C1)C=1SC=C(N1)C(N[C@H]1CN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C19H21N5O6S
